US03957833
By utilizing the procedure of Example 8, by reacting p-[(1,5-dimethylhexyl)thio]benzoic acid and propargyl bromide, there is obtained p-[(1,5-dimethylhexyl)thio]benzoic acid propargyl ester M.P. 130°-131°C/0.03 mmHg.

reactant | p-[(1,5-dimethylhexyl)thio]benzoic acid | CC(CCCC(C)C)SC1=CC=C(C(=O)O)C=C1 | C15H22O2S
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | p-[(1,5-dimethylhexyl)thio]benzoic acid propargyl ester | C(C#C)OC(C1=CC=C(C=C1)SC(CCCC(C)C)C)=O | C18H24O2S
